US07732477B2
Methyl6-nitro-1-benzothiophene-2-carboxylate
24.8 g (126.7 mmol) of 2,4-dinitrobenzaldehyde, 13.4 g (126.7 mmol) of methyl mercaptoacetate and 35.3 ml (253.3 mmol) of triethylamine in 74.5 ml of DMSO are heated at 80° C. for 1 h. The reaction solution is poured into 250 ml of ice-water. The resulting precipitate is filtered off with suction, washed with water and dried at 50° C. under reduced pressure overnight. This gives 16.1 g (53.6% of theory) of the title compound.

reactant | 2,4-dinitrobenzaldehyde | 126.7 mmol, 24.8 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
reactant | methyl mercaptoacetate | 126.7 mmol, 13.4 g | SCC(=O)OC | C3H6O2S
reactant | triethylamine | 253.3 mmol, 35.3 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 74.5 ml | CS(=O)C | C2H6OS
product | Methyl6-nitro-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC(=C2)[N+](=O)[O-] | C10H7NO4S
